* Z:\home\julian\Documents\TEC\Laboratorio de Electrónica Analógica\Proyecto Analógica\Primer_Diseño\Subsistema_Alimentacion\Rectificador.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N002 N005 SINE(0 169.7 60)
L1 N002 N005 100 Rser=1m
L2 N001 N004 1 Rser=1m
D1 0 N001 1N4007
D2 N001 N003 1N4007
D3 0 N004 1N4007
D4 N004 N003 1N4007
R1 N003 0 100
C1 N003 0 2m
.model D D
.lib C:\users\julian\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 200m
k1 l1 l2 1
.backanno
.end
